US07723333B2
4-(Benzylamino)-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.200 g, 0.70 mmol), benzylamine (0.082 g, 0.77 mmol) and TEA (0.078 g, 0.77 mmol) was dissolved in MeCN (3 ml) and heated at in a microwave reactor 120° C. for 5 mins. The reaction mixture was purified by silica gel column chromatography using a 75:25 mixture of heptane and EtOAc as eluant, to give the title compound (0.145 g, 58%). 1H NMR (500 MHz, CDCl3): δ 7.49-7.36 (m, 5H), 7.32-7.26 (m, 3H), 7.05-7.00 (m, 2H), 5.60-5.51 (m, 1H), 4.43 (hep, 1H), 4.08-4.02 (m, 2H), 1.61 (d, 6H); 13C NMR (125 MHz, CDCl3): δ 158.6, 136.5, 135.2, 131.7, 129.8, 129.0, 128.7, 128.1, 127.5, 124.8, 107.9, 48.3, 47.8, 20.3; Mass Spectrum: M−H+ 357.

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.70 mmol, 0.200 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | benzylamine | 0.77 mmol, 0.082 g | C(C1=CC=CC=C1)N | C7H9N
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 4-(Benzylamino)-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.145 g, 58% | C(C1=CC=CC=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C19H20N2O3S
